Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ Y/o woman with PMH significant for HTN, 
hyperlipidemia, and anemia, unifocal ventricular ectopy, LVH, 
renal insufficiency, and bigeminy presenting after a resolving 
episode of dizziness overnight. Ms. ___ notes an episode of 
dizziness overnight when she went to the bathroom. She got up 
overnight/early on the morning of admission to use the restroom. 
She did not exprience any dizziness during micturition. Upon 
lying down to go to back to bed she noticed that she was 
lightheaded and the room was spinning, though it was unlike a 
prior episode of vertigo she experienced several years ago. She 
was symptomatic for ___ hours while in bed, and woke up in the 
morning asymptomatic. She did not experience a recurrence of her 
symptoms during the day. However, she was worried that her 
symptoms may be indicative of something serious so she went to 
her PCP, who advised her to come to the ED. She denied a change 
in vision, weakness, loss of vision, dysarthria, loss of 
consciousness, nausea, vomiting, chest pain, shortness of 
breath, palpitations. She did have an episode of mild abdominal 
pain on the morning of admission, which has since resolved. She 
noted she had a good appetite on the day prior to admission 
though has not eaten much on the day of admission as she had 
been in the ED all day.

On admission to the ED her vitals: 98.2 185/87 42 18 94% RA
Per ED note: During observation of patient, EKG demonstrated 
ventricular bigeminy. 
Labs were notable for Trop-T: <0.01  K: 5.2 H/H 10.8/32.5
N 85% L 10%
EKG from the ED revealed sinus rhythm, with PVC, no ST changes, 
normal intervals

On transfer vitals: 98.6 80 18 154/41 98%
 
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. Ten 
point review of systems is otherwise negative.  
 
 
Past Medical History:
ANEMIA   
COLONOSCOPY ___ ___   
DIVERTICULITIS   
GERD   
HYPERLIPIDEMIA   
HYPERTENSION   
HYSTERECTOMY, BENIGN, ? MAY HAVE OVARIES   
OSTEOPOROSIS   
OPEN ANGLE GLAUCOMA   
UNIFOCAL VENTRICULAR ECTOPY   
ECHO ___ CONCENTRIC LVH, DYASTOLIC DYSFUNCTION EF 65%  
 
ETT ___ NORMAL ___   
RENAL INSUFFICIENCY   
ANEMIA OF CHRONIC DISEASE   
LEFT VENTRICULAR HYPERTROPHY in f/u Cardiology: BWH. 
Hx CAD 
ARRYTHMIA pvc's/bigeminy 
OBESITY   
HEARING LOSS   
SHOULDER PAIN
 
Social History:
___
Family History:
Denies a family history of malignancy, arrhythmias, cardiac 
disease, sudden death
 
Physical Exam:
ON ADMISSION:

General: Very pleasant ___ speaking woman seated comfortably 
eating dinner in NAD  
HEENT: PERRL, no nystagmus, no oropharyngeal erythema
Neck:  Supple, no JVD
CV:  Bigeminy, ___ SEM at ___, bounding pulses
Lungs: CTAB  
Abdomen: Obese, nontender, nondistended, normoactive BS  
GU:  No foley
Ext:  Warm and well perfused, no edema
Neuro: CN II-XII intact, strength and sensation grossly intact, 
no nystagmus, gait normal

ON DISCHARGE:

General: Very pleasant ___ speaking woman lying comfortably 
in bed
HEENT: PERRL, no nystagmus, no oropharyngeal erythema
Neck:  Supple, no JVD
CV:  ___, ___ SEM at ___
Lungs: CTAB  
Abdomen: Obese, nontender, nondistended, normoactive BS  
GU:  No foley
Ext:  Warm and well perfused, no edema
Neuro: CN II-XII intact, strength and sensation grossly intact, 
no nystagmus, gait normal
 
Pertinent Results:
___ 12:45PM BLOOD WBC-9.5 RBC-4.21 Hgb-10.8* Hct-32.7* 
MCV-78* MCH-25.7* MCHC-33.1 RDW-15.6* Plt ___
___ 04:44AM BLOOD WBC-5.3 RBC-3.87* Hgb-9.4* Hct-29.8* 
MCV-77* MCH-24.4* MCHC-31.7 RDW-16.0* Plt ___
___ 12:45PM BLOOD Glucose-98 UreaN-28* Creat-1.1 Na-143 
K-5.2* Cl-106 HCO3-26 AnGap-16
___ 04:44AM BLOOD Glucose-98 UreaN-27* Creat-1.0 Na-141 
K-4.0 Cl-105 HCO3-24 AnGap-16
___ 12:45PM BLOOD cTropnT-<0.01
___ 05:15AM BLOOD WBC-7.1 RBC-4.22 Hgb-10.6* Hct-32.5* 
MCV-77* MCH-25.1* MCHC-32.6 RDW-16.0* Plt ___
___ 04:44AM BLOOD WBC-5.3 RBC-3.87* Hgb-9.4* Hct-29.8* 
MCV-77* MCH-24.4* MCHC-31.7 RDW-16.0* Plt ___
 
Brief Hospital Course:
Ms. ___ is an ___ Y/o woman with past medical history 
significant for hypertension, hyperlipidemia, and anemia, 
unifocal ventricular ectopy, LVH, renal insufficiency, and 
bigeminy presenting after an episode of pre-syncope at home, 
resolved prior to admission. 

#Pre-Syncope vs Vertigo: Given history of bigeminy with 
bradycardia on admission, there was suspicion for arrhythmia as 
a cause for her symptoms. The differential also included 
orthostatic hypotension though her orthostatics were negative. 
Her symptoms were not consistent with seizure or 
neurocardiogenic etiology. She was monitored on telemetry 
throughout her hospital stay, which was significant for bigeminy 
and trigeminy, though she remained asymptomatic. She was 
evaluated by Dr. ___, with electrophysiology, who 
determined that her symptoms and telemetry findings are not 
related. In addition, the team determined that her arrhythmia is 
benign and and does not require further intervention either as 
an inpatient or as an outpatient. No medication regimen changes 
were recommended and she was determined to be safe for discharge 
home. 

# Hypertension: Home losartan was continued. HCTZ initially 
held, though restarted once orthostatics were negative. 
# GERD: Home omeprazole continued
# HLD: Home simvastatin continued
# Iron deficiency anemia: stable and chronic- continued home 
iron 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Ibuprofen 600 mg PO Q12H pain 
3. Losartan Potassium 100 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Oxybutynin 10 mg PO DAILY 
6. Simvastatin 20 mg PO DAILY 
7. Ferrous Sulfate 325 mg PO BID 

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Oxybutynin 10 mg PO DAILY 
5. Simvastatin 20 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO BID 
7. Ibuprofen 600 mg PO Q12H pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vertigo

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, it was a pleasure to take care of you while you 
were in the hospital. You were admitted after you had an episode 
of dizziness at home. We were concerned that this may have been 
due to an abnormal hearth rhythm. We placed you on a heart 
monitor and observed you closely throughout the hospital stay. 
We consulted the cardiology team and together we determined that 
your symptoms were unlikely to be due to an arrhythmia, and in 
fact may have been an episode of vertigo. We now feel that you 
are safe to discharge home without a change to your medication 
regimen.
 
Followup Instructions:
___